US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6,7-dimethoxy-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 6,7-dimethoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound as a solid.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 6,7-dimethoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(6,7-dimethoxy-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=C(C=C1CC2)OC)OC)C | C19H19BrN4O3
